US05681844
Preparation of L-methionine sulfone-L-proline-O-benzyl ester hydrochloride salt A. Procedure 1:
To a solution of N-Boc-L-methionine sulfone-L-proline-O-benzyl ester (23.5 g, 50 mmole) in dry dioxane (300 mL) was added 100 mL of a 4M HCl/dioxane solution. The mixture was then stirred at room temperature for 1 hour until the starting material disappeared as shown by thin layer chromatography analysis (silica, 10% chloroform in methanol). Diethyl ether was added to the mixture to precipitate the title compound as a white hydrochloride salt. The mixture was filtered on a Buchner funnel and the solid was then dried under high vacuum to give 20.16 g (100%) of the title compound as a white solid.

reactant | N-Boc-L-methionine sulfone L-proline-O-benzyl ester | 50 mmole, 23.5 g | CC(C)(C)OC(=O)N[C@@H](CCS(=O)(=O)C)C(=O)O.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | L-methionine sulfone L-proline-O-benzyl ester hydrochloride salt | 20.16 g, 100% | CS(=O)(=O)CC[C@@H](C(=O)O)N.Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O | InChI=1S/C12H15NO2.C5H11NO4S.ClH/c14-12(11-7-4-8-13-11)15-9-10-5-2-1-3-6-10;1-11(9,10)3-2-4(6)5(7)8;/h1-3,5-6,11,13H,4,7-9H2;4H,2-3,6H2,1H3,(H,7,8);1H/t11-;4-;/m00./s1
